US05929072
To a solution of 4-fluoro-2-nitrotoluene (5 g, 32 mmol) in DMF (32 ml) was added dimethylformamide dimethyl acetal (5.56 ml, 42 mmol) and the mixture warmed at 140° C. for 18 hours in Argon atmosphere. Then the solution was allowed to reach room temperature and diethyl ether (100 ml) and water (100 ml) was added. The organic layer was washed with water (2×100 ml) and brine (1×100 ml), dried (MgSO4) and solvent concentrated at reduced pressure, affording N,N-dimethyl-2-(4-fluoro-2-nitrophenyl)ethenylamine as a red solid. No further purification was necessary.

reactant | 4-fluoro-2-nitrotoluene | 32 mmol, 5 g | FC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | dimethylformamide dimethyl acetal | 42 mmol, 5.56 ml | COC(N(C)C)OC | C5H13NO2
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
reactant | water | 100 ml | O | H2O
solvent | DMF | 32 ml | CN(C)C=O | C3H7NO
product | N,N-dimethyl-2-(4-fluoro-2-nitrophenyl)ethenylamine | CN(C)C=CC1=C(C=C(C=C1)F)[N+](=O)[O-] | C10H11FN2O2
